US06277991B1
2-(8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-propionic acid ethyl ester hydrochloride
Sodium hydride, 60% (0.156 g, 3.9 mmol) was suspended in dry heptane (5 ml) and stirred under nitrogen for 5 minutes. The solvent was decanted and dry dimethyl formamide (2 ml) was added. 8Naphthalen-1-ylmethyl-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (1.115 g, 3.0 mmol), dissolved in dry dimethyl formamide (11 ml) was added dropwise under cooling in an ice bath. The mixture was stirred at 0° C. for 1 h. An aliquot of the resulting solution of deprotonated 1-phenyl-8-naphthalen-1-ylmethyl-1,3,8-triazaspiro[4.5]decan-4-one (2.3 ml, 0.5 mmol) was added to ethyl 2-bromopropionate and the mixture was stirred at room temperature overnight. Water (15 ml) and ethyl acetate (15 ml) were added and the mixture was shaken, the organic phase was separated and successively washed with water (2×10 ml) and brine (10 ml). The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo. The crude product was purified by column chromatography on silica gel using a mixture of ethyl acetate and dichloromethane 1:4 to give the pure base, which was dissolved in tetrahydrofuran (3 ml) and an excess of a solution of hydrogen chloride in ether was added. Crystallization occurred on the careful addition of ether (6 ml). The precipitate was collected by filtration and dried to give the title compound (217 mg, 85% yield).

reactant | Sodium hydride | [H-].[Na+]
reactant | 8Naphthalen-1-ylmethyl-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 3.0 mmol, 1.115 g | C1(=CC=CC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C24H25N3O
reactant | 1-phenyl-8-naphthalen-1-ylmethyl-1,3,8-triazaspiro[4.5]decan-4-one | 0.5 mmol, 2.3 ml | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2=CC=CC1=CC=CC=C21)=O | C24H25N3O
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
reactant | hydrogen chloride | Cl | ClH
solvent | heptane | 5 ml | CCCCCCC | C7H16
solvent | dimethyl formamide | 11 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 15 ml | O | H2O
product | 2-(8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-propionic acid ethyl ester hydrochloride | 217 mg, 85% yield | Cl.C(C)OC(C(C)N1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2)=O | InChI=1S/C29H33N3O3.ClH/c1-3-35-27(33)22(2)31-21-32(25-13-5-4-6-14-25)29(28(31)34)16-18-30(19-17-29)20-24-12-9-11-23-10-7-8-15-26(23)24;/h4-15,22H,3,16-21H2,1-2H3;1H
